US04267178
A solution of 2.6 g of 1-(6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthyl) piperazine, 1.5 g of 2-chloropyrimidine and 1.4 g of potassium carbonate in 50 ml of anhydrous dimethylformamide, was heated at 130° C. for 3 hours. Then the reactional mixture was cooled, the so-formed salt was filtered out and the solvent was evaporated under reduced pressure. The so-obtained residue was taken up with 30 ml of a normal solution of methanesulphonic acid and 15 ml of chloroform. The mixture was decanted off, and the acid solution was alkalized with potassium carbonate. The base was extracted with chloroform. The solution was dried and the solvent was evaporated. There were obtained 3 g of crude product which recrystallized in 40 ml of ethanol gave 2 g of 1-(6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthyl)-4-(2pyrimidinyl) piperazine, beige crystals melting at 134°-135° C. The corresponding monomethanesulfonate melts at 218°-225° C.

reactant | 1-(6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthyl) piperazine | 2.6 g | C1OC=2C=C3CCC(CC3=CC2O1)N1CCNCC1 | C15H20N2O2
reactant | 2-chloropyrimidine | 1.5 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(6,7-methylenedioxy-1,2,3,4-tetrahydro-2-naphthyl)-4-(2pyrimidinyl) piperazine | 2 g | C1OC=2C=C3CCC(CC3=CC2O1)N1CCN(CC1)C1=NC=CC=N1 | C19H22N4O2
